US07307094B2
A mixture of 6-hydroxy-2-phenylbenzoxazole-4-carboxylic acid (104 mg, 0.35 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (134 mg, 0.70 mmol), 1-hydroxybenzotriazole (95 mg, 0.70 mmol) and (S)-(−)-3-aminoquinuclidine dihydrochloride (87 mg, 0.44 mmol) in DMF (3 mL) was stirred at room temperature for 10 min, then triethylamine (0.20 mL, 1.4 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with dichloromethane and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with dichloromethane (2×50 mL). The combined organic layers were washed with brine (2×50 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) and recrystallization from acetonitrile to afford (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-6-hydroxy-2-phenylbenzoxazole-4-carboxamide (29 mg, 30%) as a white solid: 1H NMR (500 MHz, CDCl3) δ 10.22 (br s, 1H), 9.29 (d, J=7.4 Hz, 1H), 8.17-8.13 (m, 2H), 7.67-7.63 (m, 3H), 7.46 (d, J=2.3 Hz, 1H), 7.32 (d, J=2.3 Hz, 1H), 4.09-4.06 (m, 1H), 3.30-3.27 (m, 1H), 2.90-2.86 (m, 2H), 2.77-2.72 (m, 2H), 2.62-2.59 (m, 1H), 1.99-1.94 (m, 2H), 1.69-1.63 (m, 3H); MS (ESI+) m/z 364 (M+H); HPLC>99% (AUC), tR=11.90 min.

reactant | 6-hydroxy-2-phenylbenzoxazole-4-carboxylic acid | 0.35 mmol, 104 mg | OC=1C=C2C(N=C(O2)C2=CC=CC=C2)=C(C1)C(=O)O | C14H9NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.70 mmol, 134 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.70 mmol, 95 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-(−)-3-aminoquinuclidine dihydrochloride | 0.44 mmol, 87 mg | Cl.Cl.N[C@@H]1CN2CCC1CC2
reactant | triethylamine | 1.4 mmol, 0.20 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-N-(1-azabicyclo[2.2.2]oct-3-yl)-6-hydroxy-2-phenylbenzoxazole-4-carboxamide | 29 mg, 30% | N12C[C@H](C(CC1)CC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=CC=C1)O | C21H21N3O3
